US05721234
Preparation of N-(4,5-diamino-6-bromo-indan-2-yl)acetamide
N-(5-Amino-6-bromo-4-nitro-indan-2-yl)-acetamide (0.7 g, 2.2 mmol) was dissolved in tetrahydrofuran (20 mL) and then treated with Raney nickel and stirred under a hydrogen atmosphere (1 atm) at room temperature for 1 h. The catalyst was removed by filtration through a celite pad, and washed repeatedly with methanol. The combined organic filtrate was removed by rotoevaporation to give a syrup that solidified upon standing. This product was used without further purification.

reactant | N-(5-Amino-6-bromo-4-nitro-indan-2-yl)-acetamide | 2.2 mmol, 0.7 g | NC=1C(=C2CC(CC2=CC1Br)NC(C)=O)[N+](=O)[O-] | C11H12BrN3O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | N-(4,5-diamino-6-bromo-indan-2-yl)acetamide | NC1=C2CC(CC2=CC(=C1N)Br)NC(C)=O | C11H14BrN3O
